US07071169B2
(a) N-[1-[(S)-2-Acetylthio-2-(4-tetrahydropyranyl)acetylamino]-cyclopentanecarbonyl]-L-homophenylalanine ethyl ester
A mixture of potassium thioacetate (1.66 g, 14.6 mmol) and N-[1-[(R)-2-bromo-2-(4-tetrahydropyranyl)acetylamino]-cyclopentanecarbonyl]-L-homophenylalanine ethyl ester (1.84 g, 3.52 mmol) in 50 mL of tetrahydrofuran is stirred at room temperature for 4 hours. The mixture is diluted with ethyl acetate, washed with water, with saturated sodium bicarbonate solution, with brine and then dried over magnesium sulfate. The mixture is filtered and concentrated to dryness in vacuo. The residual oil is chromatographed on silica gel with hexane:ethyl acetate (50:50) to yield the title compound, m.p. 107–111° C.; [αD]−56.27° (c=0.994, methanol).

reactant | potassium thioacetate | 14.6 mmol, 1.66 g | C(C)(=S)[O-].[K+]
reactant | N-[1-[(R)-2-bromo-2-(4-tetrahydropyranyl)acetylamino]-cyclopentanecarbonyl]-L-homophenylalanine ethyl ester | 3.52 mmol, 1.84 g | C(C)OC([C@@H](NC(=O)C1(CCCC1)NC([C@@H](C1CCOCC1)Br)=O)CCC1=CC=CC=C1)=O | C25H35BrN2O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-[(S)-2-Acetylthio-2-(4-tetrahydropyranyl)acetylamino]-cyclopentanecarbonyl]-L-homophenylalanine ethyl ester | C(C)OC([C@@H](NC(=O)C1(CCCC1)NC([C@H](C1CCOCC1)SC(C)=O)=O)CCC1=CC=CC=C1)=O | C27H38N2O6S
